US05604229
(1) 1-(3-Bromophenyl)octanol
A small amount of iodine was added to a solution (100 ml) of magnesium (9.8 g) in anhydrous tetrahydrofuran and the mixture was stirred at 50° C. until the color of the iodine disappeared. A solution of heptyl bromide in anhydrous tetrahydrofuran (200 ml) was dropwise added thereto over 1 hour. The mixture was stirred at 65° C. for 1 hour and a solution of m-bromobenzaldehyde in anhydrous tetrahydrofuran (200 ml) was dropwise added thereto under ice-cooling. The mixture was stirred at room temperature for 30 minutes. Under ice-cooling, a saturated aqueous ammonium chloride solution (7.3 ml) was added thereto and the mixture was stirred for 1 hour. The insoluble matters were filtered off and the filtrate was concentrated. The concentrate was dissolved in ethyl acetate and the mixture was washed with water. The mixture was dried over magnesium sulfate and the solvent was distilled away. The residue obtained was purified by silica gel column chromatography (eluent; hexane:ethyl acetate=10:1) to give 50.9 g of the subject compound as an oily substance.

reactant | iodine | II | I2
reactant | magnesium | 100 ml, 9.8 g | [Mg] | Mg
reactant | heptyl bromide | C(CCCCCC)Br | C7H15Br
reactant | m-bromobenzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | ammonium chloride | 7.3 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-(3-Bromophenyl)octanol | 50.9 g | BrC=1C=C(C=CC1)C(CCCCCCC)O | C14H21BrO
